US07446225B2
k) N-[5-methanesulfonyl-4-(4-methanesulfonyl-3-pentafluorosulfanylphenoxy)-2-methylbenzoyl]guanidine, hydrochloride
400 mg of N-[5-methanesulfonyl-4-(4-methanesulfonyl-3-pentafluorosulfanylphenoxy)-2-methylbenzoyl]guanidine were dissolved in dilute aqueous HCl solution and then the volatiles were removed in vacuo. The residue was recrystallized from water to result in 200 mg of a pale gray solid, mp 275° C.

reactant | N-[5-methanesulfonyl-4-(4-methanesulfonyl-3-pentafluorosulfanylphenoxy)-2-methylbenzoyl]guanidine | 400 mg | CS(=O)(=O)C=1C(=CC(=C(C(=O)NC(=N)N)C1)C)OC1=CC(=C(C=C1)S(=O)(=O)C)S(F)(F)(F)(F)F | C17H18F5N3O6S3
reactant | HCl | Cl | ClH
product | N-[5-methanesulfonyl-4-(4-methanesulfonyl-3-pentafluorosulfanylphenoxy)-2-methylbenzoyl]guanidine, hydrochloride | 200 mg | Cl.CS(=O)(=O)C=1C(=CC(=C(C(=O)NC(=N)N)C1)C)OC1=CC(=C(C=C1)S(=O)(=O)C)S(F)(F)(F)(F)F | InChI=1S/C17H18F5N3O6S3.ClH/c1-9-6-12(14(33(3,29)30)8-11(9)16(26)25-17(23)24)31-10-4-5-13(32(2,27)28)15(7-10)34(18,19,20,21)22;/h4-8H,1-3H3,(H4,23,24,25,26);1H
